US05840217
A solution of 380 mg of 9,9'-spirobifluorene-2,2'-dimethanol in 15 ml of toluene is admixed with 5 g of chromium(VI) oxide on graphite (Seloxcette, Alpha Inorganics) and the mixture is refluxed for 48 hours under nitrogen. It is then filtered with suction through a glass filter and the filtrate is evaporated. Chromatography over silica gel using chloroform and crystallization from methylene chloride/ether gives 152 mg of 9,9'-spirobifluorene-2,2'-dicarbaldehyde (m.p. >300° C.) and 204 mg of 2'-hydroxymethyl1-9,9'-spirobifluorene-2-carbaldehyde (m.p. from 262° to 263° C.)

reactant | 9,9'-spirobifluorene-2,2'-dimethanol | 380 mg | C1=C(C=CC=2C3=CC=CC=C3C3(C12)C1=CC=CC=C1C=1C=CC(=CC13)CO)CO | C27H20O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | chromium(VI) oxide | 5 g | [O-2].[Cr+6].[O-2].[O-2]
product | 9,9'-spirobifluorene-2,2'-dicarbaldehyde | 152 mg | C1=C(C=CC=2C3=CC=CC=C3C3(C12)C1=CC=CC=C1C=1C=CC(=CC13)C=O)C=O | C27H16O2
